US08022222B2
A mixture of 5-bromo-4-(2,6-difluorophenoxy)pyridin-2-amine (301 mg, 1.0 mmol) and N-chlorosuccinimide (1.1 mmols) in acetonitrile (50 mL) is stirred at room temperature for one hour then heated at reflux for 24 hours. The reaction mixture is cooled and concentrated. The residue is purified via column chromatography to afford 5-bromo-3-chloro-4-(2,6-difluorophenoxy)pyridin-2-amine.

reactant | 5-bromo-4-(2,6-difluorophenoxy)pyridin-2-amine | 1.0 mmol, 301 mg | BrC=1C(=CC(=NC1)N)OC1=C(C=CC=C1F)F | C11H7BrF2N2O
reactant | N-chlorosuccinimide | 1.1 mmols | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-bromo-3-chloro-4-(2,6-difluorophenoxy)pyridin-2-amine | BrC=1C(=C(C(=NC1)N)Cl)OC1=C(C=CC=C1F)F | C11H6BrClF2N2O
